US07196102B2
(6,4′-Dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-8-yl-ethyl)-amine:
To the solution of 1-isoquinolonecarboxylic acid (1.73 g, 10 mmol, Aldrich) in anhydrous N,N-dimethylformamide (30 mL) were added N,N-diisopropylethylaime (5.29 g, 40 mmol, Aldrich), O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (7.6 g, 20 mmol, PerSeptive Biosystems GmbH), N,O-dimethylhyroxylamine hydrochloride (1.8 g, 20 mmol, Aldrich) subsequently at room temperature. The reaction solution was allowed to stir for overnight at room temperature. The N,N-Dimethylformamide was removed via vacuo and the resulting residue was diluted in ethyl acetate (50 mL). After being was washed by saturate aqueous sodium bicarbonate (50 mL) and brine (50 mL), the organic portion was dried over anhydrous magnesium sulfate and concentrated. The title compound was purified by column chromatography (silica gel, ethyl acetate) in form as yellow syrup in 94% yield (2.04 g, 9.4 mmol).

reactant | 1-isoquinolonecarboxylic acid | 10 mmol, 1.73 g | C1(NC(=CC2=CC=CC=C12)C(=O)O)=O | C10H7NO3
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 20 mmol, 7.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,O-dimethylhyroxylamine hydrochloride | 20 mmol, 1.8 g | Cl.CNOC
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | (6,4′-Dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-8-yl-ethyl)-amine | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C=1C=CC=C2C=CC=NC12 | C26H26N2O2
